US09303023B2
To an ice-cooled solution of 2-(4-nitro-1H-pyrazol-1-yl)ethanol (1.90 g, 12.02 mmol) in THF (60 mL), NaH (673 mg, 16.82 mmol, 60%) was added and the solution was stirred for 5 min at 0° C., then the ice bath was removed and the reaction mixture was stirred at rt for 30 min, before 2-chloro-4,6-dimethoxypyrimidine (2.31 g, 13.22 mmol) was added. After 40 min at rt, the reaction mixture was quenched with water and the org. solvent was removed in vacuo. The aq. layer was extracted with DCM (1×), then acidified with 1 N HCl-solution to pH 2, and extracted with DCM (2×). The combined org. layers were washed with brine, dried (MgSO4), filtered and the solvent removed under reduced pressure. Purification by crystallization (DCM-hept-mixture) yielded 4,6-dimethoxy-2-(2-(4-nitro-1H-pyrazol-1-yl)ethoxy)pyrimidine as a beige solid. LC-MS conditions A: tR=0.88 min, [M+H]+=295.98.

reactant | 2-(4-nitro-1H-pyrazol-1-yl)ethanol | 12.02 mmol, 1.90 g | [N+](=O)([O-])C=1C=NN(C1)CCO | C5H7N3O3
reactant | NaH | 16.82 mmol, 673 mg | [H-].[Na+]
reactant | 2-chloro-4,6-dimethoxypyrimidine | 13.22 mmol, 2.31 g | ClC1=NC(=CC(=N1)OC)OC | C6H7ClN2O2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 4,6-dimethoxy-2-(2-(4-nitro-1H-pyrazol-1-yl)ethoxy)pyrimidine | COC1=NC(=NC(=C1)OC)OCCN1N=CC(=C1)[N+](=O)[O-] | C11H13N5O5
